US09193720B2
The 0.60 mL of 1M sodium hydroxide (16.64 mg, 0.42 mmol) was added to a solution (S)-isopropyl 2-(tert-butoxy)-2-(4-(3,3-dimethylazetidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (60 mg, 0.10 mmol) in ethanol (2 mL) and stirred for 18 h at 90° C. The reaction mixture was neutralized with 1N HCl solution, extracted with EtOAc, and the organic layer was washed with brine, and dried (MgSO4). The crude material was purified by prep HPLC to give (S)-2-(tert-butoxy)-2-(4-(3,3-dimethylazetidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid 40 mg (72%). 1H NMR (500 MHz, DMSO-d6) δ 7.40-7.37 (m, 2H), 7.26 (br. s, 1H), 7.14 (t, J=8.8 Hz, 2H), 7.0 (d, J=9.2 Hz, 1H), 6.96 (d, J=6.6 Hz, 1H), 6.86 (br. s, 1H), 5.04 (s, 1H), 4.21 (t, J=6.2 Hz, 2H) 3.47 (br. s, 4H), 3.05 (t, J=6.2 Hz, 2H), 2.01 (s, 3H), 1.91 (s, 3H), 1.10 (s, 9H), 1.02 (s, 6H). UPLC (M+H)=535.45.

reactant | sodium hydroxide | 0.42 mmol, 1M, 0.60 mL, 16.64 mg | [OH-].[Na+]
reactant | (S)-isopropyl 2-(tert-butoxy)-2-(4-(3,3-dimethylazetidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.10 mmol, 60 mg | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CC(C1)(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C35H45FN2O4
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | (S)-2-(tert-butoxy)-2-(4-(3,3-dimethylazetidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid | 40 mg, 72% | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CC(C1)(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C32H39FN2O4
